US09238668B2
Under a nitrogen atmosphere, 10 mmol of 2-(1H-pyrazol-1-yl)-9H-carbazole, 10 mmol of 2-bromo-9-(pyridin-2-yl)-9H-carbazole, 1 mmol of copper(I)iodide, 25 mmol of potassium carbonate, and 2 mmol of L-proline were combined in stirring degassed dimethyl sulfoxide. The mixture was heated to 90° C. for 3 days before being cooled and separated between dichloromethane and water. The water layer was washed twice with dichloromethane and the organics were combined and washed once with brine. The organic fraction was dried with magnesium sulfate and concentrated under reduced pressure and subjected to column chromatography of silica with dichloromethane/ethyl acetate as the eluent. After concentrating under reduced pressure, 2′-(1H-pyrazol-1-yl)-9-(pyridin-2-yl)-9H-2,9′-bicarbazole was isolated in a 60% yield.

reactant | 2-(1H-pyrazol-1-yl)-9H-carbazole | 10 mmol | N1(N=CC=C1)C1=CC=2NC3=CC=CC=C3C2C=C1 | C15H11N3
reactant | 2-bromo-9-(pyridin-2-yl)-9H-carbazole | 10 mmol | BrC1=CC=2N(C3=CC=CC=C3C2C=C1)C1=NC=CC=C1 | C17H11BrN2
reactant | potassium carbonate | 25 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | L-proline | 2 mmol | N1[C@H](C(=O)O)CCC1 | C5H9NO2
catalyst | copper(I)iodide | 1 mmol | [Cu]I
product | 2′-(1H-pyrazol-1-yl)-9-(pyridin-2-yl)-9H-2,9′-bicarbazole | 60% yield | N1(N=CC=C1)C1=CC=2N(C3=CC=CC=C3C2C=C1)C1=CC=2N(C3=CC=CC=C3C2C=C1)C1=NC=CC=C1 | C32H21N5
